US08912176B2
Preparation of 4-(methylsulfonyl)benzoyl chloride
To a stirred solution of 4-methylsulphonylbenzoic acid (100 mg, 0.48 mmol) in DCM (2 mL) was added SOCl2 (52 μL, 0.73 mmol) and toluene (2 mL) and the resulting reaction was stirred at 60° C. for 20 hours. A further charge of SOCl2 (100 μL, 1.45 mmol) was added and the reaction was heated at 80° C. for a further 24 hours. Volatiles were removed at reduced pressure and the crude product used in subsequent steps without further purification.

reactant | 4-methylsulphonylbenzoic acid | 0.48 mmol, 100 mg | CS(=O)(=O)C1=CC=C(C(=O)O)C=C1 | C8H8O4S
reactant | SOCl2 | 0.73 mmol, 52 μL | O=S(Cl)Cl | Cl2OS
reactant | toluene | 2 mL | C1(=CC=CC=C1)C | C7H8
reactant | SOCl2 | 1.45 mmol, 100 μL | O=S(Cl)Cl | Cl2OS
solvent | DCM | 2 mL | C(Cl)Cl | CH2Cl2
product | 4-(methylsulfonyl)benzoyl chloride | CS(=O)(=O)C1=CC=C(C(=O)Cl)C=C1 | C8H7ClO3S
